US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]cyclopropylcarboxamide
Cyclopropyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the reaction mixture was evaporated to dryness and purified by preparative HPLC. (0.026 g, 30% yield over 2 steps): 1H NMR (DMSO d6) δ 8.75 (s, 1H), 8.36 (br s, 1H), 8.24 (s, 1H), 8.12 (d, 1H), 7.76-7.72 (m, 3H), 7.5 (t, 1H), 1.83 (m, 1H), 0.97-0.84 (m, 4H); ES-MS (m/z) 345.

reactant | Cyclopropyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | C1(CC1)C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C43H38N6O2
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]cyclopropylcarboxamide | 30% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C19H16N6O
